US03956494
To 4.4 g. (0.026 mole) of 2-methoxy-2-(2-pyridyl)thioacetamide in 20 ml. of water at 0°C. is added 2.9 g. (0.053 mole) of propargylamine with stirring and the resulting suspension is allowed to stand overnight at 5°C. Ethanol (5 ml.) is added and the mixture is stirred for five hours, then extracted with dichloromethane. The extracts are dried and concentrated. The residue is chromatographed on a silica gel "dry-column," using 1:10 ethyl acetate/ether as the eluant. The product fraction is treated with charcoal, filtered, concentrated and the residue is recrystallized from benzene/ligroin to give 2-methoxy-N-propargyl-2-(2-pyridyl)thioacetamide.

reactant | 2-methoxy-2-(2-pyridyl)thioacetamide | 0.026 mole | COC(C(=S)N)C1=NC=CC=C1 | C8H10N2OS
reactant | water | O | H2O
reactant | propargylamine | 0.053 mole | C(C#C)N | C3H5N
solvent | Ethanol | 5 ml | C(C)O | C2H6O
product | 2-methoxy-N-propargyl-2-(2-pyridyl)thioacetamide | COC(C(=S)NCC#C)C1=NC=CC=C1 | C11H12N2OS
